US08222416B2
A mixture of {2-[1-(4-methanesulfonyl-phenyl)-2-(tetrahydro-pyran-4-yl)-vinyl]-1H-pyrrolo[2,3-b]pyridin-5-yl}-carbamic acid tert-butyl ester (520 mg, 1.05 mmol) and 10% palladium on activated carbon (0.2 g) in methanol (150 mL) was heated at 50° C. under hydrogen (5 atm) for 12 h. After cooling to room temperature, the catalyst was removed by filtration and washed with ethyl acetate. The filtrate was concentrated in vacuo to give {2-[1-(4-methanesulfonyl-phenyl)-2-(tetrahydro-pyran-4-yl)-ethyl]-1H-pyrrolo[2,3-b]pyridin-5-yl}-carbamic acid tert-butyl ester (520 mg, 100%) which was used in the next step without purification: LC/MS m/e calcd for C26H33N3O5S [M+H]+ 500.63, observed 500.2.

reactant | {2-[1-(4-methanesulfonyl-phenyl)-2-(tetrahydro-pyran-4-yl)-vinyl]-1H-pyrrolo[2,3-b]pyridin-5-yl}-carbamic acid tert-butyl ester | 1.05 mmol, 520 mg | C(C)(C)(C)OC(NC=1C=C2C(=NC1)NC(=C2)C(=CC2CCOCC2)C2=CC=C(C=C2)S(=O)(=O)C)=O | C26H31N3O5S
catalyst | palladium on activated carbon | 0.2 g | [Pd] | Pd
solvent | methanol | 150 mL | CO | CH4O
product | {2-[1-(4-methanesulfonyl-phenyl)-2-(tetrahydro-pyran-4-yl)-ethyl]-1H-pyrrolo[2,3-b]pyridin-5-yl}-carbamic acid tert-butyl ester | 520 mg, 100% | C(C)(C)(C)OC(NC=1C=C2C(=NC1)NC(=C2)C(CC2CCOCC2)C2=CC=C(C=C2)S(=O)(=O)C)=O | C26H33N3O5S
